US07256300B2
To a suspension of (S)-4-(5-chloro-2,3-dihydrobenzofuran-7-yl)-1,1,1-trifluoro-4-methyl-2-((R)-toluene-4-sulfinylmethyl)pentan-2-ol (1.49 g, 3.23 mmol) and sodium iodide (1.45 g, 9.70 mmol) in 25 mL of anhydrous acetone at −40° C. was added a solution of trifluoroacetic acid anhydride (2.28 mL, 16.2 mmol) in 5 mL of anhydrous acetone via a syringe dropwise over 5 minutes. A greenish brown mixture was formed instantaneously. After 15 minutes, the reaction mixture was quenched with saturated aqueous sodium sulfite solution and neutralized with saturated aqueous sodium carbonate solution. The brown color disappeared and the crude was concentrated in vacuo to remove most of the acetone solvent. The resulting material was diluted with 50 mL of water and extracted with three 100 mL portions of ether. The combined organic phases were washed with brine, dried over magnesium sulfate, filtered, and concentrated in vacuo to afford (S)-4-(5-chloro-2,3-dihydrobenzofuran-7-yl)-1,1,1-trifluoro-4-methyl-2-p-tolylsulfanylmethylpentan-2-ol as a yellow oil (1.43 g, 99%).

reactant | (S)-4-(5-chloro-2,3-dihydrobenzofuran-7-yl)-1,1,1-trifluoro-4-methyl-2-((R)-toluene-4-sulfinylmethyl)pentan-2-ol | 3.23 mmol, 1.49 g | ClC=1C=C(C2=C(CCO2)C1)C(C[C@@](C(F)(F)F)(O)C[S@@](=O)C1=CC=C(C=C1)C)(C)C | C22H24ClF3O3S
reactant | sodium iodide | 9.70 mmol, 1.45 g | [I-].[Na+]
reactant | trifluoroacetic acid anhydride | 16.2 mmol, 2.28 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | acetone | 25 mL | CC(=O)C | C3H6O
solvent | acetone | 5 mL | CC(=O)C | C3H6O
product | (S)-4-(5-chloro-2,3-dihydrobenzofuran-7-yl)-1,1,1-trifluoro-4-methyl-2-p-tolylsulfanylmethylpentan-2-ol | 1.43 g, 99% | ClC=1C=C(C2=C(CCO2)C1)C(C[C@@](C(F)(F)F)(O)CSC1=CC=C(C=C1)C)(C)C | C22H24ClF3O2S
